US07179934B2
(S)-2-Methyl-propane-2-sulfinic Acid ((3S)-1,3-dimethyl-pentylidene)-amide
A mixture of (S)-4-methyl-hexan-2-one (1.6 g, 14 mmol), (S)-2-methyl-propane-2-sulfinic acid amide (1.7 g, 14 mmol) and titanium(IV)ethoxide (6.4 g, 28 mmol) in THF (30 mL) was refluxed for 10 hours. Then the reaction mixture was poured into brine (150 mL). The mixture was filtered. The filtrate was extracted by EtOAc (3×70 mL). The EtOAc phase was removed under reduce pressure and the residue was purified by a silica gel column (Hexane/EtOAc 3:1) to give the titled compound (1.93 g, 63% yield) as a colorless oil: 1H NMR (CDCl3) δ 2.24 (m, 2H), 2.27 (s, 3H), 1.85 (m, 1H), 1.22 (m, 2H), 1.20(s, 9H), 0.85 (m, 6H); MS (APCl) (M+1)+ 218.1.

reactant | (S)-4-methyl-hexan-2-one | 14 mmol, 1.6 g | C[C@H](CC(C)=O)CC | C7H14O
reactant | (S)-2-methyl-propane-2-sulfinic acid amide | 14 mmol, 1.7 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | brine | 150 mL | [Cl-].[Na+].O
catalyst | titanium(IV)ethoxide | 28 mmol, 6.4 g | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (S)-2-Methyl-propane-2-sulfinic Acid ((3S)-1,3-dimethyl-pentylidene)-amide | 1.93 g, 63% yield | CC(C[C@H](CC)C)=N[S@@](=O)C(C)(C)C | C11H23NOS
